US06548522B1
N-Heptyl-2,2-diphenyl-acetamide
The title compound, white solid, m.p. 90° C. and MS: m/e=309 (M+) was prepared in accordance with the general method of example 1 from diphenylacetyl chloride and heptylamine.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | heptylamine | C(CCCCCC)N | C7H17N
product | N-Heptyl-2,2-diphenyl-acetamide | C(CCCCCC)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H27NO
